US08877782B2
N-(2-Isopropoxy-ethyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 8b, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (200 mg, 0.65 mmol) was converted, using 2-aminoethyl isopropylether instead of methylamine, to the title compound (190 mg, 74%) which was obtained as a white solid. MS: m/e=454.1 [M+OAc]−.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.65 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | 2-aminoethyl isopropylether | NCCOC(C)C | C5H13NO
product | N-(2-Isopropoxy-ethyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide | 190 mg, 74% | C(C)(C)OCCNC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C22H25N3O4
